US08633173B2
A suspension of [3-(bromomethyl)phenyl]boronic acid (1.0 g, 4.6 mmol), N-methyl-methanesulfonamide (0.56 g, 5.1 mmol) and potassium carbonate (1.9 g, 14 mmol) in acetone (10 mL) was stirred for 6 hours at room temperature. The mixture was diluted with dichloromethane (50 mL), filtered through a plug of diatomaceous earth and evaporated under reduced pressure. Crude (3-{[methyl(methylsulfonyl)amino]methyl}phenyl)boronic acid was isolated as a yellow viscous oil (1.08 g, 88%). MS=266 (M+Na)+.

reactant | [3-(bromomethyl)phenyl]boronic acid | 4.6 mmol, 1.0 g | BrCC=1C=C(C=CC1)B(O)O | C7H8BBrO2
reactant | N-methyl-methanesulfonamide | 5.1 mmol, 0.56 g | CNS(=O)(=O)C | C2H7NO2S
reactant | potassium carbonate | 14 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (3-{[methyl(methylsulfonyl)amino]methyl}phenyl)boronic acid | CN(S(=O)(=O)C)CC=1C=C(C=CC1)B(O)O | C9H14BNO4S
